US07902252B2
6.2.f) Synthesis of ±(E)-ethyl 3-((1S,5R,6S)-3-chloro-6-methylbicyclo[3.1.0]hex-2-en-2-yl)acrylate
±(1S,5R,6S)-3-Chloro-6-methylbicyclo[3.1.0]hex-2-ene-2-carbaldehyde was olefinated with ethoxycarbonylmethylene triphenylphosphorane according to General Procedure 1.1.B to afford the title compound.

reactant | (1S,5R,6S)-3-Chloro-6-methylbicyclo[3.1.0]hex-2-ene-2-carbaldehyde | ClC1=C([C@H]2[C@H]([C@H]2C1)C)C=O | C8H9ClO
reactant | ethoxycarbonylmethylene triphenylphosphorane | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | (E)-ethyl 3-((1S,5R,6S)-3-chloro-6-methylbicyclo[3.1.0]hex-2-en-2-yl)acrylate | ClC1=C([C@H]2[C@H]([C@H]2C1)C)/C=C/C(=O)OCC | C12H15ClO2
